US09388176B2
N-(3-methylphenyl)-2-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]isonicotinamide
In a manner similar to that described for Example 138, 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine and 2-bromo-N-m-tolyl-isonicotinamide were converted to the title compound.

reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | 2-bromo-N-m-tolyl-isonicotinamide | BrC=1C=C(C(=O)NC=2C=C(C=CC2)C)C=CN1 | C13H11BrN2O
product | N-(3-methylphenyl)-2-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]isonicotinamide | CC=1C=C(C=CC1)NC(C1=CC(=NC=C1)N1CC2=C(N=C(N=C2)SC)CC1)=O | C21H21N5OS
